Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
worsening angina
 
Major Surgical or Invasive Procedure:
Persantine stress test
 
History of Present Illness:
___ year old ___ speaking only male with PMHx of prior MI who 
presents to PCP's office without symptoms, but apparently PCP 
thought that EKG had changed and sent him to ED. Patient reports 
that he has a history of angina for several years which has 
gotten worse over the past month. Patient states that sometimes 
he gets his exertional anginal ___ times per week. Patient is 
unable to quantitate degree of chest pain but states it occurs 
with exertion, gets left substernal and left arm pain with 
associated shortness of breath. Apparently takes nitro ___ pills 
with relief. Patient with MI in ___ in ___ where there was 
no intervention performed, unable to assess whether this was 
because he did not present to a hospital or because there was 
nothing that could be intervened upon. 
.
Patient also states that he has significant vascular disease and 
has been told that if he did not get his right lower leg 
revascularized that he would need to have an amputation.
.
Review of systems also positive for + dyspnea in the horizontal 
position. Patient has not tried sleeping with more pillows or 
sitting up to help. 
.  
On arrival to the floor, patient is chest pain free and 
hemodynamically stable.

 
Past Medical History:
MI ___ - no intervention performed
h/o appendectomy
PVD
h/o bleeding ulcer in childhool - patient states that he 
previously underwent EGD last year in ___ and was told he had 
a "big ulcer"
likely HTN
 
Social History:
___
Family History:
Was not able to ascertain whether there was a family history of 
premature coronary artery disease or sudden cardiac death.  
 
Physical Exam:
VS - Temp 98.2, BP 154/84, P 59, R 16, 98% on RA 
Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. poor dentition with 
gold teeth.  
Neck: ELevated JVP 8-10 cm H20.  
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
Abd: Soft, mild tenderness to palpation diffusely. No HSM or 
tenderness. Abd aorta not enlarged by palpation. No abdominial 
bruits.  
Ext: No c/c/e.   
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  
.  
Pulses:  
Right: Carotid 2+ Femoral 2+ DP non-palp ___ non-palp (okay by 
doppler)
Left: Carotid 2+ Femoral 2+ DP 1+ ___ 1+  
 
Pertinent Results:
___ 01:57PM BLOOD WBC-7.7 RBC-4.39* Hgb-14.2 Hct-39.6* 
MCV-90 MCH-32.4* MCHC-35.9* RDW-13.8 Plt ___
___ 01:57PM BLOOD Neuts-65.3 ___ Monos-5.8 Eos-4.2* 
Baso-0.7
___ 01:57PM BLOOD Plt ___
___ 05:35AM BLOOD ___ PTT-25.6 ___
___ 01:57PM BLOOD Glucose-80 UreaN-18 Creat-1.3* Na-140 
K-4.2 Cl-104 HCO3-28 AnGap-12
___ 05:35AM BLOOD Glucose-81 UreaN-19 Creat-1.2 Na-139 
K-4.5 Cl-105 HCO3-29 AnGap-10
___ 07:15PM BLOOD ALT-15 AST-23 LD(LDH)-195 CK(CPK)-117 
AlkPhos-63 TotBili-0.6
___ 01:57PM BLOOD CK-MB-3
___ 01:57PM BLOOD cTropnT-<0.01
___ 07:15PM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:35AM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:35AM BLOOD Calcium-9.1 Phos-3.5 Mg-2.3 Cholest-243*
___ 07:15PM BLOOD Albumin-4.0
___ 05:35AM BLOOD Triglyc-87 HDL-40 CHOL/HD-6.1 
LDLcalc-186*
.
Echo - The left atrium is mildly dilated. Left ventricular wall 
thicknesses are normal. The left ventricular cavity is 
moderately dilated. LV systolic function appears depressed 
(moderate-to-severe) secondary to hypokinesis of the inferior 
septum, and akinesis of the inferior free wall and posterior 
wall. The basal segments of the inferior and posterior walls are 
somewhat aneurysmal but not frankly dyskinetic. The overall left 
ventricular ejection fraction is approximately 30 percent. There 
is no ventricular septal defect. Right ventricular chamber size 
and free wall motion are normal. The aortic root is mildly 
dilated at the sinus level. The ascending aorta is mildly 
dilated. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. Mild (1+) aortic regurgitation 
is seen. The mitral valve leaflets are mildly thickened. There 
is no mitral valve prolapse. Mild (1+) mitral regurgitation is 
seen. The left ventricular inflow pattern suggests impaired 
relaxation. The estimated pulmonary artery systolic pressure is 
normal. There is no pericardial effusion.  
.
Cardiac perfusion persantine - INTERPRETATION:  The image 
quality is adequate. Left ventricular cavity size is enlarged 
(EDV 186 ml), but does not worsen with stress. Rest and stress 
perfusion images reveal uniform a moderate severe fixed defect 
in the inferior wall at the base.  
Gated images reveal a dilated left ventricle with severe 
hypokinesis of the inferior wall and overall global hypokinesis. 
 The calculated left ventricular ejection fraction is 37 %.  No 
priors. 
.  
IMPRESSION: 1) Moderate severe fixed defect in basal inferior 
wall. 2) Global hypokinesis, most severe in affected segment. 3) 
Dilated cardiomyopathy with LVEF of 37%. 
 .
Stress portion of test - This is a ___ y.o. man with a history of 
prior MI and a recent history of worsening exertional angina. He 
The patient was referred to the exercise lab for a functional 
assessment of his CAD, however due to resting hypertension he 
was converted to a pharmacologic study. He was infused with 
0.142mg/kg/min of dipyramidole over 4 minutes. There were no 
reports of chest, arm, back, or neck discomfort throughout the 
study. There were no ST segment changes noted. The rhythm was 
sinus with a single isolated VPB noted during recovery. The 
patient was hypertensive at baseline with an appropriate 
response to the infusion. At ~8 minutes into recovery, the 
patient reported some vague chest discomfort with no ST segment 
changes or hemodynamic pertubations noted. The discomfort abated 
spontaneously. He was given 125mg of aminophylline during 
recovery without complication. 
IMPRESSION: Vague chest discomfort late in post-perfusion period 
without ischemic ECG changes noted. Nuclear report sent 
separately. 

.
Chest x-ray - IMPRESSION: Minimal right lower lobe atelectasis 
with right basilar pleural thickening. No evidence of pneumonia. 

.
EKG ___ - Sinus bradycardia. Consider inferior myocardial 
infarction, age undetermined. Since the previous tracing the 
rate has decreased.  

 
Brief Hospital Course:
___ year old male with PMHx of prior MI, recently emigrated from 
___ who presents with worsening angina , sent in from the ED 
from ___'s office in the setting of ? EKG change with negative 
enzymes.  
.  
#. CAD - patient with known CAD as evidenced by prior MI. 
Patient with complaints of worsening angina with exertion that 
appears to be getting worse over the past month associated with 
shortness of breath. Patient not currently with any data in our 
system in terms of catherization, echo, stress on admission. 
Patient not maintained on any appropriate CAD management. 
Patient ruled out times three with negative enzymes. EKG with 
evidence of prior MI, LBBB, but no previous baseline for 
comparison. CKs flat. Telemetry with few PVCs and some 
bradycardia. Started patient on appropriate CAD treatment 
including high dose statin. LDL on admission 186 and goal < 70 
given previous history of MI. LFTs on admission WNL. In 
addition, patient started on Aspirin and low dose beta blocker.  
Stress test with imaging demonstrated likely evidence of old 
infarct with severe hypokinesis however no evidence of 
reversible disease so cardiac catherization was not needed 
urgently. Discharged patient on aspirin, statin, and beta 
blocker.
.  
#. Pump - patient clinically with mildly elevated JVP without 
crackels or lower extremity edema. Patient does endorse 
worsening shortness of breath when lying flat and also has a 
previous history of infarct. Echo here demonstrates left atrium 
mildly dilated. Left ventricular wall thicknesses are normal. 
The left ventricular cavity is moderately dilated. LV systolic 
function appears depressed (moderate-to-severe) secondary to 
hypokinesis of the inferior septum, and akinesis of the inferior 
free wall and posterior wall. The basal segments of the inferior 
and posterior walls are somewhat aneurysmal but not frankly 
dyskinetic. The overall left ventricular ejection fraction is 
approximately 30 percent. There is no ventricular septal defect. 
Right ventricular chamber size and free wall motion are normal. 
The aortic root is mildly dilated at the sinus level. The 
ascending aorta is mildly dilated. The aortic valve leaflets (3) 
are mildly thickened but aortic stenosis is not present. Mild 
(1+) aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Mild (1+) 
mitral regurgitation is seen. The left ventricular inflow 
pattern suggests impaired relaxation. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion. Started patient on ACEi in the setting of likely 
chronic systolic heart failure.  Also started patient on beta 
blocker, statin, and aspirin as above.
.  
#. Rhythm - patient appears to be in sinus rhythm with LBBB and 
evidence of bradycardia. On telemetry some evidence of PVCs and 
bradycardia to high ___. Patient with negative enzymes x3 and 
flat CKs. As above started patient on aspirin, statin, beta 
blocker (low dose).
.  
# History of ulcer - unclear if gastric or duodenal in nature 
and no records as apparently was scoped in ___. Patient 
endorses previous history of GI bleed as a child, although 
unclear on the specific nature of the bleed. Patient started on 
PO PPi BID and H. Pylori antigen sent and pending.  Patient 
needs outpatient upper endoscopy to evaluate as per PCP. If 
antigen comes back positive would suggest outpatient treatment 
for H. Pylori.
.
# HTN - patient HTN on arrival to the floor, but does not have a 
previous history of documented HTN. Started low dose BB, patient 
persistently hypertensive. Could not uptitrate beta blocker in 
the setting of bradycardia, started ACE inhibitor in the setting 
of systolic heart failure. Goal would be to get to maximal ACE 
dose of 40 mg PO daily and titration should be continued as 
outpatient. Would consider addition of HCTZ as needed after that 
for additional blood pressure control
. 
# Renal insufficiency - unclear if chronic vs. acute however 
suspect chronic given ___ medical conditions. Cr improved 
to 1.2, suspect chronic renal insufficiency.  Urine lytes 
ordered and pending still. Medications were renally dosed, 
nephrotoxins avoided.
.
# Peripheral vascular disease -  patient with history of 
peripheral vascular disease. Patient with good pulses 
peripherally on left, difficult to palpate on the right however 
by doppler pulses are okay.  Patient was continued on statin, 
aspirin
. 
#. FEN: Follow and replete electrolytes. Cardiac diet. 
.  
#. Access:  PIV
.  
#. PPx:  subQ heparin, colace, senna, PPi PO BID.
.  
#. Code:  Full Code

 
Medications on Admission:
Amiodarone 100 mg PO BID
Nitroglycerin PRN 

 
Discharge Medications:
1. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
2. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).
Disp:*30 Tablet(s)* Refills:*2*
4. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
5. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain.
Disp:*12 Tablet, Sublingual(s)* Refills:*0*
6. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: angina, coronary artery disease
.
Secondary: 
MI ___ - no intervention performed
h/o appendectomy
PVD
h/o bleeding ulcer in childhold - patient states that he 
previously underwent EGD last year in ___ and was told he had 
a "big ulcer"
HTN
 
Discharge Condition:
afebrile, vital signs stable, chest pain free
 
Discharge Instructions:
You were admitted to the hospital with worsening chest pain.  
You underwent an echocardiogram as well as a stress test which 
demonstrated significant coronary artery disease and like a 
previous MI.  You were started on the appropriate medications 
for your heart and are being given prescriptions on discharge. 
We would like you to have a cardiac catherization soon as an 
outpatient procedure.
.
You should follow up with Dr. ___. We have schedule 
you a follow up appointment as below
.
You should continue to take these new medications as prescribed:
1) You were started on aspirin
2) You were started on a beta blocker
3) You were started on a medication for your cholesterol and 
coronary artery disease
4) Your amiodarone was discontinued
5) You were continued on your nitroglycerin as needed
6) You were started on an ACE inhibitor as you have high blood 
pressure as well as evidence of systolic heart failure
7) You were started on a proton pump inhibitor for your history 
of GI ulcer
.
You should return to the ED if you experience any worsening 
shortness of breath, chest pain, or severe abdominal pain. It 
has been a pleasure taking of you at ___.
 
Followup Instructions:
___